US07888352B2
1-(4-((2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-(tetrahydro-2H-pyran-2-yloxy)ethanone prepared via General Procedure B-3 (250 mg) was reacted with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine via General Procedure A to give 1-(4-((2-(6-aminopyridin-3-yl)-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-(tetrahydro-2H-pyran-2-yloxy)ethanone.

reactant | 1-(4-((2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-(tetrahydro-2H-pyran-2-yloxy)ethanone | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C(COC2OCCCC2)=O)N2CCOCC2 | C22H30ClN5O4S
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
product | 1-(4-((2-(6-aminopyridin-3-yl)-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-(tetrahydro-2H-pyran-2-yloxy)ethanone | NC1=CC=C(C=N1)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C(COC2OCCCC2)=O)N2CCOCC2 | C27H35N7O4S
